US04902686
a. 3-amino-2(N-methylamino)-pyridine, hydrochloride
2-chloro-3-nitro-pyridine (16 g) was dissolved in dry tetrahydrofuran (200 ml). The solution was exposed to gaseous methylamine until the reaction to N-methylamino-3-nitropyridine was completed. The mixture was filtered and the filtrate was evaporated. The yellow residue was dissolved in 96% EtOH (250 ml) and was charged with 5% Pd/C (1 g) and hydrogenated under standard conditions. After completion of the hydrogenation an aqueous solution of hydrochloric acid was added (50 ml,4N), the Pd catalyst was filtered of and the filtrate was evaporated to give the title compound as an oil.

reactant | 2-chloro-3-nitro-pyridine | 16 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | methylamine | CN | CH5N
reactant | N-methylamino-3-nitropyridine | CNN1CC(=CC=C1)[N+](=O)[O-] | C6H9N3O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-amino-2(N-methylamino)-pyridine, hydrochloride | Cl.NC=1C(=NC=CC1)NC | InChI=1S/C6H9N3.ClH/c1-8-6-5(7)3-2-4-9-6;/h2-4H,7H2,1H3,(H,8,9);1H
